US06576642B2
Preparation of Nα,Nε-bis[5-(3,4,5-trimethoxyphenyl)-penta-(2E,4E)-dienoyl]-lysine:
Added to a solution of 265 mg (0.40 mmol) of Nα,Nε-bis[5-(3,4,5-trimethoxyphenyl)penta-(2E,4E)-dienoyl]-lysine methyl ester synthesized by the process of Example 9 in methanol-tetrahydrofuran (1 ml-1 ml) was 1.0 ml (5.0 mmol) of a 5N aqueous solution of potassium hydroxide, and the mixture was stirred for 3 hours at room temperature. A saturated saline solution (3 ml) and concentrated hydrochloric acid (0.5 ml) were added to the reaction mixture to conduct extraction with chloroform. An organic layer was dried over anhydrous sodium sulfate and then concentrated under reduced pressure. The resultant crude oil (234 mg) was purified by column chromatography on silica gel to obtain 203 mg (yield: 80%) of the title compound as a colorless amorphous powder.

reactant | Nα,Nε-bis[5-(3,4,5-trimethoxyphenyl)penta-(2E,4E)-dienoyl]-lysine methyl ester | 0.40 mmol, 265 mg | COC([C@@H](NC(\C=C\C=C\C1=CC(=C(C(=C1)OC)OC)OC)=O)CCCCNC(\C=C\C=C\C1=CC(=C(C(=C1)OC)OC)OC)=O)=O | C35H44N2O10
reactant | potassium hydroxide | [OH-].[K+]
reactant | hydrochloric acid | 0.5 ml | Cl | ClH
solvent | methanol tetrahydrofuran | 1 ml-1 ml | CO.O1CCCC1
product | Nα,Nε-bis[5-(3,4,5-trimethoxyphenyl)-penta-(2E,4E)-dienoyl]-lysine | 203 mg, yield: 80% | COC=1C=C(C=C(C1OC)OC)/C=C/C=C/C(=O)N[C@@H](CCCCNC(\C=C\C=C\C1=CC(=C(C(=C1)OC)OC)OC)=O)C(=O)O | C34H42N2O10
